US04212865
60 g. of 3-nitroacetophenone in 250 ml. of chloroform is treated with 58.2 g. of bromine in 50 ml. of chloroform. The solvent is evaporated and the product separated by filtration and recrystallized from benzene to provide α-bromo-3-nitroacetophenone, m.p. 91°-94° C.

reactant | 3-nitroacetophenone | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | bromine | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | α-bromo-3-nitroacetophenone | C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)CBr | C8H6BrNO3
